US07968538B2
t-Butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate
1-(2-(1-(3,5-Dimethoxyphenyl)ethylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone (600 mg, 1.62 mmol), t-butyl piperazine-1-carboxylate (300 mg, 1.62 mmol), N,N-diisopropylethylamine (418 mg, 3.24 mmol) were stirred at 80° C. in dry acetonitrile (25 mL) for 21 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 20% ethyl acetate in hexanes to afford the title compound (231 mg, 27% yield). 1H NMR (400 MHz, CDCl3): δ 9.30 (d, 1H), 7.59 (d, 1H), 6.48 (s, 2H), 6.33 (s, 1H), 6.13 (d, 1H), 5.68 (s, 1H), 4.44 (m, 1H), 3.43 (m, 4H), 3.25 (m, 2H), 3.20 (m, 2H), 1.59 (d, 3H), 1.46 (s, 9H); MS (ESI) m/z: Calculated for C27H34F3N3O5: 537.25; Observed: 560.3 (M++Na).

reactant | 1-(2-(1-(3,5-Dimethoxyphenyl)ethylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone | 1.62 mmol, 600 mg | COC=1C=C(C=C(C1)OC)C(C)NC1=C(C=CC(=C1)F)C(C(F)(F)F)=O | C18H17F4NO3
reactant | t-butyl piperazine-1-carboxylate | 1.62 mmol, 300 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 3.24 mmol, 418 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | t-Butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate | 231 mg, 27% yield | COC=1C=C(C=C(C1)OC)C(C)NC=1C=C(C=CC1C(C(F)(F)F)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C27H34F3N3O5
